US04545810
2-(2'-Cyanoethyl)-4-cyano-5,6-diphenyl-3-(2H)-pyridazinone
4.0 grams (0.0146 mole) of 4-cyano-5,6-diphenyl-3-(2H)-pyridazinone was dissolved in 40 mls of pyridine along with 10 mls of distilled water. 2 mls of acrylonitrile was added into this solution and the mixture heated to reflux for 2 hours. The solution was cooled and the solvent distilled at reduced pressure. The residual solid was recrystallized from ethyl alcohol to give 2 grams (42%) yield of a white solid which melted at 160°-161° C. The infrared spectrum showed the C-C band at 3.3μ, the nitrile group at 4.5μ, and the carboxy groups for an amide at 6.0μ.

reactant | 4-cyano-5,6-diphenyl-3-(2H)-pyridazinone | 0.0146 mole, 4.0 grams | C(#N)C=1C(NN=C(C1C1=CC=CC=C1)C1=CC=CC=C1)=O | C17H11N3O
reactant | acrylonitrile | 2 mls | C(C=C)#N | C3H3N
solvent | pyridine | 40 mls | N1=CC=CC=C1 | C5H5N
solvent | water | 10 mls | O | H2O
product | 2-(2'-Cyanoethyl)-4-cyano-5,6-diphenyl-3-(2H)-pyridazinone | C(#N)CCN1N=C(C(=C(C1=O)C#N)C1=CC=CC=C1)C1=CC=CC=C1 | C20H14N4O
